US09214635B2
In FIG. 2A, an exemplary synthesis of 2-(2-ethylhexyl)thiophene is depicted. As shown in FIG. 2A, a 7.4 mL thiophene was dissolved in 100 mL anhydrous tetrahydrofuran (THF). The solution was then cooled to about −78° C. A 30 mL of 2.5 M n-butyllithium (n-BuLi) in hexane (75 mmol) was added dropwise to the solution. The reaction mixture was warmed to room temperature for about 2 hours, and then cooled to about −15 to about −20° C. 26 mL 2-ethyl bromide was added to the reaction mixture. The reaction mixture was reacted at about 50° C. for about 18 hours, and poured into crushed ice. The organic phase was isolated and washed with water, and extracted with ether three times. After removal of the solvent by rotary evaporator, the residue was distilled under vacuum to get rid of the 2-ethylhexyl bromide. After removal of the 2-ethylhexyl bromide, the residue was purified by elution with hexane by silica gel column chromatography (i.e., about 10 to about 15 cm) to afford 12.6 g 2-(2-ethylhexyl)thiophene as light yellow liquid. The yield was about 85%. The molecular weight was determined by gas chromatography/mass spectrometry (GC-MS) to be 196.3.

reactant | 2-(2-ethylhexyl)thiophene | C(C)C(CC=1SC=CC1)CCCC | C12H20S
reactant | thiophene | 7.4 mL | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 2.5 M, 30 mL | C(CCC)[Li]
reactant | hexane | 75 mmol | CCCCCC | C6H14
reactant | 2-ethyl bromide | 26 mL | CCBr | C2H5Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-ethylhexyl bromide | C(C)C(CBr)CCCC | C8H17Br
